US07491720B2
(1) Synthesis of tert-butyl 4-(3-chloro-2-fluorobenzoyl)piperazine-1-carboxylate
A mixture of 19.4 g of 1-Boc-piperazine, 24.0 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 19.1 g of 1-hydroxybenzotriazole, 20.0 g of 3-chloro-2-fluorobenzoic acid and 200 ml of chloroform was stirred at room temperature for 4 hours. The resulting mixture was diluted with chloroform, and an insoluble matter was filtered off using Celite. Then, the filtrate was washed with water and brine. The resulting organic layer was dried over magnesium sulfate and filtered, and the filtrate was concentrated in vacuo. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=9/1 to 1/1) to give title compound.

reactant | 1-Boc-piperazine | 19.4 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 24.0 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 19.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-chloro-2-fluorobenzoic acid | 20.0 g | ClC=1C(=C(C(=O)O)C=CC1)F | C7H4ClFO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-(3-chloro-2-fluorobenzoyl)piperazine-1-carboxylate | ClC=1C(=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)F | C16H20ClFN2O3
